* Schematics Netlist *



D_D2         I_sence $N_0001 Dbreak 
D_D4         I_sence $N_0002 Dbreak 
D_D1         $N_0001 $N_0003 Dbreak 
D_D3         $N_0002 $N_0004 Dbreak 
X_S1    AA1 0 $N_0003 $N_0001 SimmetrCM_S1 
X_S2    AA2 0 $N_0001 I_sence SimmetrCM_S2 
X_S3    AA2 0 $N_0004 $N_0002 SimmetrCM_S3 
X_S4    AA1 0 $N_0002 I_sence SimmetrCM_S4 
R_R2         $N_0005 I_sence  1k  
V_V1         $N_0003 0 DC=300V
V_V2         $N_0006 0 DC=15V
C_C1         0 $N_0005  0.5n  
V_V3         $N_0004 0 DC=300V
C_C2         0 $N_0007  100p  
C_C3         0 $N_0008  1n  
C_C4         0 $N_0009  1n  
R_R3         $N_0010 0  500k  
C_C5         0 $N_0011  500p  
R_R4         $N_0011 $N_0008  4k  
R_R6         $N_0013 $N_0012  50k  
C_C7         $N_0014 $N_0013  1n  
C_C6         $N_0014 $N_0012  100p  
R_R9         $N_0016 $N_0015  10k  
D_D6         0 $N_0017 Dbreak 
C_C8         0 $N_0018  100u  
C_C9         $N_0016 $N_0018  300p  
D_D5         0 $N_0019 Dbreak 
D_D7         $N_0019 $N_0020 Dbreak 
D_D8         $N_0017 $N_0020 Dbreak 
R_R12         $N_0017 $N_0021  1m  
Kn_K1         L_L1 L_L2     1
L_L5         $N_0018 $N_0020  20m  
X_U1         $N_0014 $N_0008 $N_0012 $N_0010 $N_0009 $N_0011 $N_0007 $N_0005 0
+  AA1 0 $N_0006 AA2 $N_0006 $N_0008 SG1825 
+ PARAMS: PERIOD={1/20k} DEADTIME=5e-8
R_R7         $N_0015 $N_0014  5k  
R_R5         I_sence $N_0011  1k  
R_R10         $N_0018 $N_0015  80k  
R_R11         $N_0015 0  20k  
L_L1         $N_0001 $N_0002  40  
L_L2         $N_0021 $N_0019  0.12  
R_R1         0 I_sence  2m  
R_R8         $N_0018 0  0.1  

.subckt SimmetrCM_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=1m Voff=0.0V Von=1.0V
.ends SimmetrCM_S1

.subckt SimmetrCM_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=1m Voff=0.0V Von=1.0V
.ends SimmetrCM_S2

.subckt SimmetrCM_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e6 Ron=1m Voff=0.0V Von=1.0V
.ends SimmetrCM_S3

.subckt SimmetrCM_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1m Ron=1.0 Voff=0.0V Von=1.0V
.ends SimmetrCM_S4
